US05496930
1.09 g (5 mmol) of 4-O-tert.-butyldimethylsilyl-glucal are taken up in 10-20 ml of ethyl acetate and 50-80 ml of vinyl acetate, and 1.0 g of lipase from Candida cylindracea (Sigma) is added. After stirring at room temperature for 20-24 hours, the reusable enzyme is filtered off, and the solution is concentrated in vacuo. Subsequent simple filtration through a silica gel column in ether/hexane (~1:1 v:v) yields 1.1-1.2 g of 6-O-acetyl-4-O-tert.-butyldimethylsilyl-glucal (85-90% yield).

reactant | 4-O-tert.-butyldimethylsilyl-glucal | 5 mmol, 1.09 g | C(C)(C)(C)O[C@H]1[C@@H](C=C(O[C@@H]1CO)[SiH](C)C)O | C12H24O4Si
reactant | ethyl acetate | 10-20 ml | C(C)(=O)OCC | C4H8O2
solvent | vinyl acetate | 50-80 ml | C(C)(=O)OC=C | C4H6O2
product | 6-O-acetyl-4-O-tert.-butyldimethylsilyl-glucal | 1.1-1.2 g, 85-90% yield | C(C)(=O)OC[C@@H]1[C@H]([C@@H](C=C(O1)[SiH](C)C)O)OC(C)(C)C | C14H26O5Si
